US04997840
The solution of 2'-(2-chloroacetyl)-N-methylformanilide may be reacted with benzoic acid by a method analogous to that of Example 2(d) to give the novel compound 2-[2-(N-methylformamido)phenyl]-2oxoethyl benzoate.

reactant | 2'-(2-chloroacetyl)-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=CC=C1 | C10H10ClNO2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 2-[2-(N-methylformamido)phenyl]-2oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=CC=C1)N(C=O)C | C17H15NO4
